US09290468B2
Step 2: 5-bromo-3,4-difluoro-2-((2-chlorophenyl)amino)benzoic acid
To a solution of 2-chloroaniline (20.13 g, 157.80 mmol) and 5-bromo-2,3,4-trifluorobenzoic acid (20.12 g, 78.90 mmol) in THF (120 mL) was added LiHMDS (236.7 mL, 1 M in THF, 236.7 mmol) dropwisely at −78° C. under nitrogen atmosphere. The mixture was allowed to slowly warm to room temperature and stirred at this temperature overnight. The reaction was quenched with water (100 mL) and acidified to pH 2-3 with 10% HCl (aq.). The mixture was extracted with ethyl acetate (100 mL×3). The combined organic extracts were washed with water (100 mL) and brine (100 mL) sequentially, dried over Na2SO4, filtered and concentrated in vacuo to afford the desired product (pale yellow solid, 25.63 g, 89.6% yield). 1H NMR (400 MHz, DMSO-d6): δ 14.10 (s, 1H), 9.30 (s, 1H), 8.03 (m, 1H), 7.47 (m, 1H), 7.23 (m, 1H), 7.04 (m, 2H).

reactant | 2-chloroaniline | 157.80 mmol, 20.13 g | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | 5-bromo-2,3,4-trifluorobenzoic acid | 78.90 mmol, 20.12 g | BrC=1C(=C(C(=C(C(=O)O)C1)F)F)F | C7H2BrF3O2
reactant | LiHMDS | 236.7 mmol, 1 M, 236.7 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 5-bromo-3,4-difluoro-2-((2-chlorophenyl)amino)benzoic acid | 25.63 g, 89.6% yield | BrC=1C(=C(C(=C(C(=O)O)C1)NC1=C(C=CC=C1)Cl)F)F | C13H7BrClF2NO2
